US08053436B1
(±)-4-[3-(3,6-Dibromocarbazol-9-yl)-2-hydroxy-propyl]-piperazine-1-carboxylic tert-butyl ester
The same method as employed in the preparation of Example 1 but starting from 3,6-dibromo-9H-carbazole, (±)-4-oxiranylmethyl-piperazine-1-carboxylic acid tert-butyl ester and sodium hydride gives after flash chromatography the title compound as a white foam in a 72% yield. M.p: 90-95° C.

reactant | 3,6-dibromo-9H-carbazole | BrC=1C=CC=2NC3=CC=C(C=C3C2C1)Br | C12H7Br2N
reactant | (±)-4-oxiranylmethyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1OC1 | C12H22N2O3
reactant | sodium hydride | [H-].[Na+]
product | (±)-4-[3-(3,6-Dibromocarbazol-9-yl)-2-hydroxy-propyl]-piperazine-1-carboxylic tert-butyl ester | 72% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)CC(CN1C2=CC=C(C=C2C=2C=C(C=CC12)Br)Br)O | C24H29Br2N3O3
